US06063727
8-2) Preparation of 3-methyl-3-(methoxysilyl)pentane
In a 300 ml 3-necked flask equipped with a magnetic stirrer, a Dimroth condenser and a 50 ml dropping funnel were charged 50 ml of methanol and 4.5 g of urea. To this was added dropwise 7.3 g of 3-methyl-3-(chlorosilyl)pentane obtained above over 15 minutes. After completion of the addition, the resulting mixture was stirred at room temperature for 1 hour while monitoring the reaction by gas chromatography. After evaporation of methanol, the residue was extracted with 60 ml of hexane. The extraction was repeated 3 times. Then, hexane was distilled off and the residue was used for the following reaction.

reactant | urea | 4.5 g | NC(=O)N | CH4N2O
reactant | 3-methyl-3-(chlorosilyl)pentane | 7.3 g | CC(CC)(CC)[SiH2]Cl | C6H15ClSi
solvent | methanol | 50 ml | CO | CH4O
product | 3-methyl-3-(methoxysilyl)pentane | CC(CC)(CC)[SiH2]OC | C7H18OSi
